US07470809B2
[2-(4-fluoro-benzyl)-phenyl]-chloromethane (1 eq.), THF (1 L/mol), water (0.7 L/mol), Pd(OAc)2 (1.3 mol %), dppp (2.6 mol %) and sodium acetate (2.5 eq.) were placed in a inertized reactor. The reaction mixture is placed under a CO pressure of 4 bars and allowed to stir at 80° C. for 20 hours. The organic layer is separated and evaporated under pressure. Toluene (0.75 L/mol) is added to the residue and the carboxylic acid is extracted with a 2 N solution of sodium hydroxide (0.75 L/mol). The black particles of palladium are removed by filtration over Celite. The water layer is placed in a flask and acetic acid (0.9 L/mol) is added. The mixture is warmed up to 80° C. then allowed to spontaneously cool down. The crystallisation starts around 50° C. The crystals are filtered off at room temperature, washed with water and dried to give black [2-(4-fluoro-benzyl)-phenyl]-acetic acid (91%). Treatment of 5 g of black [2-(4-fluoro-benzyl)-phenyl]-acetic acid with charcoal in 25 ml of a mixture of acetic acid and water (7/3) allows the isolation of pure white crystals of [2-(4-fluoro-benzyl)-phenyl]-acetic acid. This step can be performed before the first addition of acetic acid.

reactant | [2-(4-fluoro-benzyl)-phenyl]-chloromethane | 1 eq. | FC1=CC=C(CC2=C(C=CC=C2)CCl)C=C1 | C14H12ClF
reactant | THF | C1CCOC1 | C4H8O
reactant | dppp | C=1C=CC(=CC1)P(CCCP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C27H26P2
reactant | sodium acetate | 2.5 eq. | C(C)(=O)[O-].[Na+]
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | O | H2O
product | [2-(4-fluoro-benzyl)-phenyl]-acetic acid | 91% | FC1=CC=C(CC2=C(C=CC=C2)CC(=O)O)C=C1 | C15H13FO2
